US07750017B2
Preparation of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-7-vinyl[1]benzothieno[2,3-d]pyrimidin-4-amine
To a solution of 7-bromo-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl][1]benzothieno[2,3-d]pyrimidin-4-amine (5.0 g, 10.0 mmol) in 1,2-dimethoxyethane (50 mL) and water (5.0 mL) were added Pd(PPh3)4 (580 mg, 0.50 mmol, 0.05 equiv), Potassium vinyltrifluoroorate (1.48 g, 11.1 mmol, 1.1 equiv), and sodium carbonate (2.66 g, 25.1 mmol, 2.5 equiv) under nitrogen. The reaction mixture was heated to reflux for 15 hours. The reaction mixture was cooled to rt then poured into a flask contains a mixture of water (100 mL) and EtOAc (100 mL). The resulting mixture was extracted with EtOAc (3×50 mL), dried over sodium sulfate then concentrated in vacuo. The crude material was purified by chromatography (5% EtOAc/hexane) to give an off-white solid (4.84 g, 97%). 1H-NMR (CD3OD) δ 8.72 (d, J=5.4 Hz, 1H), 8.47 (s, 1H), 8.37 (d, J=8.4 Hz, 1H), 8.28 (t, 1H), 8.06 (s, 1H), 7.98 (d, J=7.4 Hz, 1H), 7.81 (d, J=2.7 Hz, 1H), 7.72 (m, 2H), 7.55 (dd, J=2.1, 8.9 Hz, 1H), 7.23 (d, J=8.7 Hz, 1H), 6.89 (m, 1H), 5.97 (d, J=17.6 Hz, 1H), 5.43 (s, 2H), 5.39 (d, J=10.9 Hz, 1H); LCMS RT=3.30 min, [M+H]+=445.10.

reactant | 7-bromo-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl][1]benzothieno[2,3-d]pyrimidin-4-amine | 10.0 mmol, 5.0 g | BrC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)S2 | C22H14BrClN4OS
reactant | Potassium | [K] | K
reactant | sodium carbonate | 25.1 mmol, 2.66 g, 2.5 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | water | 5.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.50 mmol, 580 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 mL | O | H2O
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-7-vinyl[1]benzothieno[2,3-d]pyrimidin-4-amine | 4.84 g, 97% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)C=C | C24H17ClN4OS
